US07074798B2
d) 2-[2-(1,3-Dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)benzyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester
2-[1-[2-(1,3-Dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)-phenyl]-1-methylsulfanylthiocarbonyloxymethyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester (low polarity) (0.175 g), tributyltin hydride (0.25 g), and 2,2′-azobis(isobutyronitrile) (0.010 g) were dissolved in toluene (5 ml) under nitrogen atmosphere, and the mixture was heated to reflux for 2 hours. The reaction mixture was cooled and the solvent was removed by distillation at reduced pressure. The residue was purified by silica gel column chromatography to give 0.123 g of the title compound from the elution fraction of hexane-ethyl acetate (1:1).

reactant | 2-[1-[2-(1,3-Dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)-phenyl]-1-methylsulfanylthiocarbonyloxymethyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 0.175 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(OC(=S)SC)C1=C(C=CC=C1)N1C=NC=2N(C(N(C(C12)=O)C)=O)C | C30H40N6O7S2
reactant | tributyltin hydride | 0.25 g | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobis(isobutyronitrile) | 0.010 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(1,3-Dimethyl-2,6-dioxo-1,2,3,6-tetrahydropurin-7-yl)benzyl]piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 0.123 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)N1C=NC=2N(C(N(C(C12)=O)C)=O)C | C28H38N6O6
